US06441052B1
a) 5-(Cyclopenta-2,4-dienylidene)hexanenitrile
Pyrrolidine (18.5 g; 0.26 mol) was added to a solution of cyclopentadiene (10.8 g; 0.16 mol; freshly prepared by cracking of dicyclopentadiene) and 5-oxohexanenitrile (15.4 g; 0.13 mol) in methanol (175 ml) at 0° C. After 1 hour stirring at this temperature, the reaction mixture was poured into ice-cold 2 NHCl (500 ml), saturated with sodium chloride, and extracted with MTBE (400 ml). The organic phase was washed with brine (3×300 ml), dried (MgSO4), concentrated in vacuo, and used in the next step without further purification.

reactant | Pyrrolidine | 0.26 mol, 18.5 g | N1CCCC1 | C4H9N
reactant | cyclopentadiene | C1=CC=CC1 | C5H6
reactant | dicyclopentadiene | C1C=CC2C1C3CC2C=C3 | C10H12
reactant | 5-oxohexanenitrile | 0.13 mol, 15.4 g | O=C(CCCC#N)C | C6H9NO
reactant | sodium chloride | [Cl-].[Na+]
solvent | methanol | 175 ml | CO | CH4O
product | 5-(Cyclopenta-2,4-dienylidene)hexanenitrile | C1(C=CC=C1)=C(CCCC#N)C | C11H13N
